US07842688B2
c) tert-Butyl 3-hydroxy-4-[4-(3-o-tolyloxypropoxy)phenyl]piperidine-1-carboxylate
Analogously to Method I, 0.750 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate and 0.732 g of 1-(3-bromopropoxy)-2-methylbenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.57 (1:2 EtOAc-heptane); Rt=5.45.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.750 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 1-(3-bromopropoxy)-2-methylbenzene | 0.732 g | BrCCCOC1=C(C=CC=C1)C | C10H13BrO
product | tert-Butyl 3-hydroxy-4-[4-(3-o-tolyloxypropoxy)phenyl]piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C26H35NO5
